US06638321B1
Synthesis of 1-[3-(2,5-Diaminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium Dihydrochloride Monochloride
The 1-[3-(2-acetylamino-5-aminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium chloride obtained in the above step (19.0 g) was dissolved, at room temperature and with stirring, in 90 ml of approximately 5N absolute hydrochloric ethanol.

reactant | 1-[3-(2-acetylamino-5-aminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium chloride | [Cl-].C(C)(=O)NC1=C(OCCC[N+]2=CN(C=C2)C)C=C(C=C1)N
solvent | ethanol | approximately 5N, 90 ml | C(C)O | C2H6O
product | 1-[3-(2,5-Diaminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium Dihydrochloride Monochloride | [Cl-].Cl.Cl.NC1=C(OCCC[N+]2=CN(C=C2)C)C=C(C=C1)N | InChI=1S/C13H19N4O.3ClH/c1-16-6-7-17(10-16)5-2-8-18-13-9-11(14)3-4-12(13)15;;;/h3-4,6-7,9-10H,2,5,8,14-15H2,1H3;3*1H/q+1;;;/p-1
